US08609675B2
To a 100 mL round-bottom flask charged with ethyl 1-methyl-4-(trifluoromethylsulfonyloxy)cyclohex-3-enecarboxylate (Int-18d, 3.36 g, 10.63 mmol), Pd(dppf)Cl2 (815 mg, 1.0 mmol), DPPF (554 mg, 1.0 mmol), KOAc (3.2 g, 33.0 mmol), and Bis(pinacolato)diboron (3.24 g, 12.76 mmol) was added dioxane (50 mL). The mixture was thoroughly degassed by alternately evacuating the flask under vacuum, then putting under argon atmosphere numerous times. The reaction mixture was then heated to 80° C. and stirred overnight. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (50 mL) and filtered through celite. The solvent was removed under reduced pressure and the residue was purified by column chromatography (silica gel, 0-30% ethyl acetate in hexane) which gave ethyl 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-enecarboxylate (Int-18e, 2.03 g) as a white solid. HPLC-MS tR=2.35 min (UV254 nm); mass calculated for formula C16H27BO4 294.2, observed LCMS m/z 295.3 (M+H).

reactant | ethyl 1-methyl-4-(trifluoromethylsulfonyloxy)cyclohex-3-enecarboxylate | 10.63 mmol, 3.36 g | CC1(CC=C(CC1)OS(=O)(=O)C(F)(F)F)C(=O)OCC | C11H15F3O5S
reactant | KOAc | 33.0 mmol, 3.2 g | CC(=O)[O-].[K+]
reactant | Bis(pinacolato)diboron | 12.76 mmol, 3.24 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | Pd(dppf)Cl2 | 1.0 mmol, 815 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | DPPF | 1.0 mmol, 554 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | ethyl 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-3-enecarboxylate | 2.03 g | CC1(CC=C(CC1)B1OC(C(O1)(C)C)(C)C)C(=O)OCC | C16H27BO4
